US04598079
3-(1-methylindol-3-yl)-4-formylpiperazin-2-one
22.9 g (0.1 mol) of 3-(1-methylindol-3-yl)-piperazin-2-one, prepared in accordance with Example 34, are reacted with methyl formate, as described in Example 5.

reactant | 3-(1-methylindol-3-yl)-piperazin-2-one | 0.1 mol, 22.9 g | CN1C=C(C2=CC=CC=C12)C1C(NCCN1)=O | C13H15N3O
reactant | methyl formate | C(=O)OC | C2H4O2
product | 3-(1-methylindol-3-yl)-4-formylpiperazin-2-one | CN1C=C(C2=CC=CC=C12)C1C(NCCN1C=O)=O | C14H15N3O2
